US07323455B2
N-{4-Bromo-2-[1-(2-furyl)-1-hydroxyethyl]phenyl}-2-chloroacetamide
Prepared from 1-(2-amino-5-bromophenyl)-1-(2-furyl)ethanol and chloroacetyl chloride generally according to the procedure described in example 1. 1H-NMR (DMSO-d6) δ 10.84 (s, 1H), 8.07 (d, J=8.76 Hz. 1H), 7.57 (bs, 1H), 7.50 (dd, J=2.33, 8,76 Hz, 1H), 7.12 (s, 1H), 7.09 (d, J=2.31 Hz, 1H), 6.46-6.42 (m, 2H), 4.35 (d, J=1.69 Hz, 2H), 1.85 (s, 3H); MS (ES) m/z 356/358 ([M−H]−, 100%).

reactant | 1-(2-amino-5-bromophenyl)-1-(2-furyl)ethanol | NC1=C(C=C(C=C1)Br)C(C)(O)C=1OC=CC1 | C12H12BrNO2
reactant | chloroacetyl chloride | ClCC(=O)Cl | C2H2Cl2O
product | N-{4-Bromo-2-[1-(2-furyl)-1-hydroxyethyl]phenyl}-2-chloroacetamide | BrC1=CC(=C(C=C1)NC(CCl)=O)C(C)(O)C=1OC=CC1 | C14H13BrClNO3
